US07838675B2
ii) N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2,2,5-trimethyl-1,3-dioxan-5-yl)oxy]-4-pyrimidinyl]-1-azetidinesulfonamide
The subtitle compound was prepared according to the procedure outlined in example 1 step (iv) using a mixture of azetidine-1-sulfonamide (prepared according to patent WO 2004/011443, 0.22 g), tris(dibenzylideneacetone)dipalladium (0) (97 mg), 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl (XPHOS) (50 mg), cesium carbonate (0.52 g) and 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2,2,5-trimethyl-1,3-dioxan-5-yl)oxy]-pyrimidine (0.44 g) in dioxane (10 mL). Purification was by column chromatography on silica gel using EtOAc/isohexane (2:8 to 3:7 gradient) as eluent to give the subtitle compound as a pale yellow oil. Yield: 0.46 g

reactant | azetidine-1-sulfonamide | 0.22 g | N1(CCC1)S(=O)(=O)N | C3H8N2O2S
reactant | 2-dicyclohexylphosphino-2′,4′,6′-tri-isopropyl-1,1′-biphenyl | 50 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | cesium carbonate | 0.52 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2,2,5-trimethyl-1,3-dioxan-5-yl)oxy]-pyrimidine | 0.44 g | ClC1=NC(=NC(=C1)OC1(COC(OC1)(C)C)C)SCC1=C(C(=CC=C1)F)F | C18H19ClF2N2O3S
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 97 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2,2,5-trimethyl-1,3-dioxan-5-yl)oxy]-4-pyrimidinyl]-1-azetidinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)OC1(COC(OC1)(C)C)C | C21H26F2N4O5S2
